US05284842
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is reacted analogously to Example 11 with 1,4-dioxa-7-azaspiro[4.4]nonane to give 1-cyclopropyl-7-(1,4-dioxa-7-azaspiro[4.4]non-7-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 229°-230°.

reactant | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 1,4-dioxa-7-azaspiro[4.4]nonane | O1CCOC12CNCC2 | C6H11NO2
product | 1-cyclopropyl-7-(1,4-dioxa-7-azaspiro[4.4]non-7-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC2(OCCO2)CC1)F)=O)C(=O)O | C19H19FN2O5
